*----------------------------------------------------------------------------
* VCA810 VOLTAGE CONTROLLED AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED 7/30/04 RRS
* REV.A
* The model still missing dc and noise to be added latter 
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |                                                             |
* |  Neither this library nor any part may be copied without    |
* |  the express written consent of TI/Burr-Brown Corporation.     |
* |                                                             |
* |  The users should carefully note the following factors      |
* |  regarding this model.                                      |
* |                                                             |
* |-------------------------------------------------------------|
*
* CONNECTIONS:       NON-INVERTING INPUT
*                    |  GROUND
*                    |  |  GAIN CONTROL, VC
*                    |  |  |  OUTPUT
*                    |  |  |  |  POSITIVE SUPPLY VOLTAGE
*                    |  |  |  |  |  NEGATIVE SUPPLY VOLTAGE
*                    |  |  |  |  |  |  INVERTING INPUT
*                    |  |  |  |  |  |  |
.SUBCKT  VCA810/BB  1  2  3  5  6  7  8
* CONTROL VOLTAGE
Q1   7   3  13  P
C1   3   7  1E-12
Q2   7   2  13  P
I1   6  13  384E-6
Q3  10  11  7  N
R2   6  10  2
E1  11   7  POLY(1) (3,0) 0.45  -0.11911
G3  12   0  POLY(1) (10,6) 0 1
R3  12   0  139
C3  12   0  1.145E-9
G1   6   7  POLY(1) (6,10) 13.5102E-3 -0.489
G2   0   7  POLY(1) (6,10) 1.7958E-3 2.939E-3
* INPUT STAGE
Q01  20   1  26  N
C01   1   0  1E-12
Q02  21   8  26  N
C02   8   0  1E-12
R01  20  27  1E3
D01  29  27  DX
D03   6  29  DX
R02  21  28  1E3
D02  24  28  DX
D04   6  24  DX
IS   26   7  2.32E-3
* GAIN STAGE 1
R31  31   0  1E6
G31  31   0  POLY(2) (8,1) (12,0) 0 0 0 0 1.1E-6 0
* GAIN STAGE 2
R41  41  44  20E3
C41  41  44  230.25E-15
G41  41  44  0  31  1E-3
D41  41  43  DX
E41  44  43  POLY(1) (3,0) 100.2 14.87
R42  41  45  20E3
C42  41  45  230.25E-15
G42  41  45  0  31  1E-3
D42  42  41  DX
E42  42  45  POLY(1)  (3,0) 100.2 14.87
E43  44   0  6  0  20
E44   0  45  0  7  20
* OUTPUT STAGE
E51  55  0 41 0 50E-3
D53  55  51  DX
D54  52  55  DX
D55   6  53  DX
D56   6  54  DX
D57   7  53  DZ
D58   7  54  DZ
G54  53   7  5  55  50E-3
G53  54   7  55  5  50E-3
V53  51   5  0.1833
V54   5  52  0.1833
G51   5   6  6  55  50E-3
G52   7   5  55   7  50E-3
R53   6   5  20
R54   7   5  20
.MODEL N NPN (IS=1E-12 BF=193)
.MODEL P PNP (IS=1E-12 BF=96)
.MODEL  DX  D(IS=1E-15 BV=200)
.MODEL  DZ  D(IS=1E-15 BV=50)
.ENDS
*$